US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-2-(carbomethoxy)thiophene-3-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 2-(carbomethoxy)thiophene-3-sulphonyl chloride in 73% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 198°-200° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2-(carbomethoxy)thiophene-3-sulphonyl chloride | C(=O)(OC)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-2-(carbomethoxy)thiophene-3-sulfonamide | 73% yield | BrC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(=O)OC)C | C10H9BrN2O5S2
